US04686219
49.6 g (0.18 mol) of ethyl 1-(2-nitrobenzyl)-imidazole-2-carboxylate were hydrogenated in 500 ml of tetrahydrofuran at room temperature under a pressure of 5 bar in the presence of Raney nickel. After the theoretical quantity of hydrogen had been absorbed, the catalyst was suction-filtered off, and the filtrate was evaporated. 37.7 g (85.4% of theory) of ethyl 1-(2-aminobenzyl)-imidazol-2-carboxylate, m.p. 104°-106° C. (m.p. from toluene 105°-107° C.) were obtained.

reactant | ethyl 1-(2-nitrobenzyl)-imidazole-2-carboxylate | 0.18 mol, 49.6 g | [N+](=O)([O-])C1=C(CN2C(=NC=C2)C(=O)OCC)C=CC=C1 | C13H13N3O4
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
catalyst | Raney nickel | [Ni] | Ni
product | ethyl 1-(2-aminobenzyl)-imidazol-2-carboxylate | 37.7 g, 85.4% | NC1=C(CN2C(=NC=C2)C(=O)OCC)C=CC=C1 | C13H15N3O2
